US05256633
At room temperature, 47.6 g (0.40 mol) of thionyl chloride was dripped into a solution of 31.0 g (0.20 mol) of 2-isopropyloxazole-4-carboxylic acid in 200 ml of toluene and 2 ml of dimethylformamide, and the mixture was stirred for one hour at 80° C. The solvents were stripped off under reduced pressure, the residue was dissolved in 300 ml of dichloromethane, and 24.0 g (0.42 mol) of cyclopropylamine in 20 ml of dichloromethane was dripped in at 0° to 10° C. The mixture was stirred for 12 hours at room temperature, 150 ml of water was added, the phases were separated, the organic phase was washed once with saturated sodium bicarbonate solution and dried over magnesium sulfate, and the solvent was removed under reduced pressure. There was obtained 37.2 g (96%) of 2-isopropyl-oxazole-4-carboxylic acid-cyclopropylamide.

reactant | thionyl chloride | 0.40 mol, 47.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-isopropyloxazole-4-carboxylic acid | 0.20 mol, 31.0 g | C(C)(C)C=1OC=C(N1)C(=O)O | C7H9NO3
reactant | cyclopropylamine | 0.42 mol, 24.0 g | C1(CC1)N | C3H7N
reactant | water | 150 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-isopropyl-oxazole-4-carboxylic acid-cyclopropylamide | 37.2 g, 96% | C1(CC1)NC(=O)C=1N=C(OC1)C(C)C | C10H14N2O2
